US04814340
A mixture of 7.6 g of 2-(4-methoxyphenyl)-2-methyl-3-butanone, 8.5 g of 3-phenoxy-4-fluorobenzaldehyde, 30 ml of methanol and 2 g of KOH was stirred at 60° C. for two hours. In the same manner as described in (a) of (1) of Synthesis Example 1, the reaction mixture was treated to give 5 g of 1-(3-phenoxy-4-fluorophenyl)-4-(4-methoxyphenyl)-4-methyl-1-penten-3-one.

reactant | 2-(4-methoxyphenyl)-2-methyl-3-butanone | 7.6 g | COC1=CC=C(C=C1)C(C)(C(C)=O)C | C12H16O2
reactant | 3-phenoxy-4-fluorobenzaldehyde | 8.5 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1F | C13H9FO2
reactant | KOH | 2 g | [OH-].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-(3-phenoxy-4-fluorophenyl)-4-(4-methoxyphenyl)-4-methyl-1-penten-3-one | 5 g | O(C1=CC=CC=C1)C=1C=C(C=CC1F)C=CC(C(C)(C)C1=CC=C(C=C1)OC)=O | C25H23FO3
